US07411072B2
5-(2-Methyl-benzylidene)-10,11-dihydro-5H-dibenzo [a,d]cycloheptene
Combine 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (0.5 g, 1.75 mmol) and o-tolylboronic acid (0.238 g, 1.75 mmol) using procedures essentially as described in Example 219, below. Pass through a plug of silica gel equilibrated with hexanes. Concentrate the filtrate to give the title product: MS (m/e) 296 (M+); Analysis for C23H20: Calcd: C, 93.19 H, 6.80. Found: C, 93.42 H, 6.79.

reactant | 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1.75 mmol, 0.5 g | BrC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H13Br
reactant | o-tolylboronic acid | 1.75 mmol, 0.238 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
product | 5-(2-Methyl-benzylidene)-10,11-dihydro-5H-dibenzo [a,d]cycloheptene | CC1=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC=C1 | C23H20
